US05049583
(S)-2-Isopropyl-5-phenethylamino-2-phenylvaleronitrile
A solution of 17 g (50 mmol) of (S)-2-isopropyl-5-(methylphenethylamino)-2-phenylvaleronitrile in 50 ml of dichloromethane was added dropwise, at 0° C., to a solution of 6 ml (66 mmol) of vinyl chloroformate in 30 ml of dichloromethane. The temperature was then allowed to increase to room temperature, and the mixture was heated for 1 hour at 80° C.

reactant | (S)-2-isopropyl-5-(methylphenethylamino)-2-phenylvaleronitrile | 50 mmol, 17 g | C(C)(C)[C@@](C#N)(CCCN(CCC1=CC=CC=C1)C)C1=CC=CC=C1 | C23H30N2
reactant | vinyl chloroformate | 66 mmol, 6 ml | ClC(=O)OC=C | C3H3ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (S)-2-Isopropyl-5-phenethylamino-2-phenylvaleronitrile | C(C)(C)[C@@](C#N)(CCCNCCC1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2
